US06051712
In analogy to the procedure described in Example 3(c), by alkylating tert-butyl (3RS,4RS)-3-hydroxy-4-[4-(naphthalen-2-ylmethoxy)-phenyl]-piperidine-1-carboxylate with 2-methoxybenzyl chloride there was obtained tert-butyl (3RS,4RS)-3-(2-methoxy-benzyloxy)-4-[4-(naphthalen-2-ylmethoxy)-phenyl]-piperidine-1-carboxylate as a colourless solid; MS: 554 (M+H)+.

reactant | tert-butyl (3RS,4RS)-3-hydroxy-4-[4-(naphthalen-2-ylmethoxy)-phenyl]-piperidine-1-carboxylate | OC1CN(CCC1C1=CC=C(C=C1)OCC1=CC2=CC=CC=C2C=C1)C(=O)OC(C)(C)C | C27H31NO4
reactant | 2-methoxybenzyl chloride | COC1=C(CCl)C=CC=C1 | C8H9ClO
product | tert-butyl (3RS,4RS)-3-(2-methoxy-benzyloxy)-4-[4-(naphthalen-2-ylmethoxy)-phenyl]-piperidine-1-carboxylate | COC1=C(COC2CN(CCC2C2=CC=C(C=C2)OCC2=CC3=CC=CC=C3C=C2)C(=O)OC(C)(C)C)C=CC=C1 | C35H39NO5
